US05656629
Sodium spheres (1.0 g, 43.5 mmol) were dissolved in ethanol (50 mL) at reflux and then 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (2.2 g, 10 mmol), followed by methyl 1-methylpyrrole-2-acetate (3.06 g, 20 mmol) in ethanol (30 mL) were added. The reaction mixture was refluxed under argon overnight, cooled to room temperature and evaporated to dryness. The residue was dissolved in water, the solution was cooled and the resulting solid was collected by filtration to afford recovered starting material. The filtrate was chilled, a solid formed which was collected by filtration, slurried with water and acidified with 2N HCl. The mixture was cooled and the product was collected by filtration and dried at 110° C. in vacuo to afford 1.2 g of 1-cyclopentyl-3-ethyl-6-(1-methyl-2-pyrrolylmethyl)pyrazolo[3,4-d]pyrimidin-4-one, m.p. 214.5°-216.5° C. Additional product (0.6 g) was also obtained by acidifying the filtrate with acetic acid, collecting the product by filtration and recrystallizing it from ethyl acetate.

reactant | Sodium | [Na] | Na
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 10 mmol, 2.2 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | methyl 1-methylpyrrole-2-acetate | 20 mmol, 3.06 g | CN1C(=CC=C1)CC(=O)OC | C8H11NO2
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-cyclopentyl-3-ethyl-6-(1-methyl-2-pyrrolylmethyl)pyrazolo[3,4-d]pyrimidin-4-one | 1.2 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CC=2N(C=CC2)C)CC | C18H23N5O
